US06800637B2
(2S)-1-(Benzyloxy)-3-[(5-bromo-2-methyl-quinolinyl)oxy]-2-propanol
A solution of 5-bromo-2-methyl-6-quinolinol (30.1 g, 126 mmol), (R)-benzyl glycidyl ether (24.9 g, 152 mmol) and triethylamine (17.4 g, 172 mmol) in DMA (200 mL) was heated in a 95-98° C. oil bath for 2 days. The solution was cooled and poured into water (300 mL) while stirring. The tan precipitate formed was filtered, washed with water (100 mL) and dried in a vacuum oven to give 37 g (73%) of the title compound as a tan solid. Rf=0.35 (ethyl acetate); 1H NMR (DMSO) δ 8.31 (d, J=8.8 Hz, 1H), 7.96 (d, J=9.2 Hz, 1H), 7.72 (d, J=9.3 Hz, 1H), 7.74 (d, J=8.7 Hz, 1H), 7.25-7.36 (m, 5H), 5.28 (d, J=5.1 Hz, 1H), 4.56 (s, 2H), 4.22-4.29 (m, 2H), 4.08-4.15 (m, 1H), 3.61-3.73 (m, 2H), 2.66 (s, 3H); Specific rotation=+6.2° (c=1, CH3OH);

reactant | 5-bromo-2-methyl-6-quinolinol | 126 mmol, 30.1 g | BrC1=C2C=CC(=NC2=CC=C1O)C | C10H8BrNO
reactant | (R)-benzyl glycidyl ether | 152 mmol, 24.9 g | C([C@H]1CO1)OCC1=CC=CC=C1 | C10H12O2
reactant | triethylamine | 172 mmol, 17.4 g | C(C)N(CC)CC | C6H15N
reactant | water | 300 mL | O | H2O
solvent | DMA | 200 mL | CC(=O)N(C)C | C4H9NO
product | (2S)-1-(Benzyloxy)-3-[(5-bromo-2-methyl-quinolinyl)oxy]-2-propanol | 37 g, 73% | C(C1=CC=CC=C1)OC[C@@H](COC=1C(=NC2=CC=CC(=C2C1)Br)C)O | C20H20BrNO3
